US04544497
Step A1: Preparation of 1-pentanoyl-4-n-pentylbicyclo(2,2,2)octane
1-Bromobutane (10.45 g, 0.076 mol) in dry benzene (9 ml) was added dropwise to magnesium (1.68 g, 0.069 mol) in dry benzene (3 ml) and dry THF (9.98 g) during 75 min. The reaction mixture was stirred at room temperature for 1 h. Triethylamine (28.84 g, 0.285 mol) was added at 5°-10° C. and methyl 4-n-pentylbicyclo(2,2,2)octane-1-carboxylate (3.00 g, 0.013 mol) in dry benzene (27 ml) was added dropwise during 1 h at 5°-15° C. The ice bath was removed and the reaction mixture was left stirring at room temperature for 4 h, and the progress of the reaction was followed by glc until the ester peak had almost disappeared. The reaction mixture was diluted with water and the organic layer was washed with 4N-hydrochloric acid (3×50 ml). The aqueous layer was washed with ether (3×50 ml) and the ether layers were combined with the organic layer and washed with water (3×50 ml) and dried (MgSO4). The ether was removed and the residue dried in vacuo and used directly to make the required compound.

reactant | 1-Bromobutane | 0.076 mol, 10.45 g | BrCCCC | C4H9Br
reactant | magnesium | 0.069 mol, 1.68 g | [Mg] | Mg
reactant | Triethylamine | 0.285 mol, 28.84 g | C(C)N(CC)CC | C6H15N
reactant | methyl 4-n-pentylbicyclo(2,2,2)octane-1-carboxylate | 0.013 mol, 3.00 g | C(CCCC)C12CCC(CC1)(CC2)C(=O)OC | C15H26O2
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 27 ml | C1=CC=CC=C1 | C6H6
solvent | THF | 9.98 g | C1CCOC1 | C4H8O
product | 1-pentanoyl-4-n-pentylbicyclo(2,2,2)octane | C(CCCC)(=O)C12CCC(CC1)(CC2)CCCCC | C18H32O
